US08076491B2
1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine hydrochloride (400 mg, 2.08 mmol), dipyridin-2-yl carbonate (450 mg, 2.08 mmol) and triethylamine (0.290 mL, 2.08 mmol) were stirred in dichloromethane (7 mL) for 12 hours at room temperature. The reaction was concentrated under vacuum to afford 4-((4-isocyanato-1H-pyrazol-1-yl)methyl)-3,5-dimethylisoxazole as an off-white solid in quantitative yield. Ethanol (1 mL) was added along with methyl 2-amino-3-(3-methoxyphenyl)propanoate (68 mg, 0.327 mmol) and triethylamine (0.064 mL, 0.461 mmol). The reaction was stirred at reflux for 12 hours, then allowed to cool to room temperature. The solvent was removed under a stream of nitrogen. The crude product was re-suspended in MeOH (1 mL) and purified by reversed phase HPLC (5 to 95% acetonitrile in H2O: 16 minutes gradient). The pure fractions were combined and solvent removed under vacuum to afford 3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-5-(3-methoxybenzyl)imidazolidine-2,4-dione as a white solid yield: 50% 1H NMR (CDCl3, 400 MHz): δ 2.19 (s, 3H), 2.41 (s, 3H), 3.34-3.33 (d, J=3.2 Hz, 1H), 3.31-3.29 (d, J=8 Hz, 1H), 3.76 (s, 3H), 4.33-4.30 (m, 1H), 5.05 (s, 2H), 5.95 (bs, 1H), 7.25-7.21 (t, 1H), 6.82-6.78 (m, 3H), 7.85 (s, 1H), 7.99 (s, 1H). The title compound was shown to inhibit hT2R08 bitter receptor and had an IC50 of 0.13 μM.

reactant | 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine hydrochloride | 2.08 mmol, 400 mg | Cl.CC1=NOC(=C1CN1N=CC(=C1)N)C
reactant | dipyridin-2-yl carbonate | 2.08 mmol, 450 mg | C(OC1=NC=CC=C1)(OC1=NC=CC=C1)=O | C11H8N2O3
reactant | triethylamine | 2.08 mmol, 0.290 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 4-((4-isocyanato-1H-pyrazol-1-yl)methyl)-3,5-dimethylisoxazole | quantitative yield | N(=C=O)C=1C=NN(C1)CC=1C(=NOC1C)C | C10H10N4O2
